### PR TITLE
[Merged by Bors] - feat(Algebra/Homology/SpectralObject): construction of the objects on the pages of the spectral sequence

### PR DESCRIPTION
**Pull request by joelriou**
Given a spectral object `X` in an abelian category, we define the objects which shall appear on the various pages of the spectral sequence attached to `X`.

---

- [x] depends on: #35361
- [x] depends on: #35359
- [x] depends on: #35357

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Algebra/Homology/SpectralObject/Page.lean [hunk 1]
```diff
@@ -0,0 +1,321 @@
...
+
+@[expose] public section
+
+namespace CategoryTheory
+
+open Limits ComposableArrows
+
+namespace Abelian
+
+variable {C ι : Type*} [Category C] [Category ι] [Abelian C]
```
Comment (robin-carlier) [inline Mathlib/Algebra/Homology/SpectralObject/Page.lean]:
```suggestion
variable {C ι : Type*} [Category* C] [Category* ι] [Abelian C]
```

File: Mathlib/Algebra/Homology/SpectralObject/Page.lean [hunk 2]
```diff
@@ -0,0 +1,321 @@
...
+    i := X.iCycles f₁ f₂ n₁
+    π := cokernel.π _
+    wi := by simp
+    hi := hi
+    wπ := by rw [this]; simp
+    hπ := by
+      refine (IsColimit.equivOfNatIsoOfIso ?_ _ _ ?_).2
+        (cokernelIsCokernel (X.δToCycles f₁ f₂ f₃ n₀ n₁))
+      · exact parallelPair.ext (Iso.refl _) (Iso.refl _) (by simpa) (by simp)
+      · exact Cofork.ext (Iso.refl _)}
```
Comment (robin-carlier) [inline Mathlib/Algebra/Homology/SpectralObject/Page.lean]:
```suggestion
      · exact Cofork.ext (Iso.refl _) }
```
I think sometime the whitespace linter prefers this

File: Mathlib/Algebra/Homology/SpectralObject/Page.lean [hunk 3]
```diff
@@ -0,0 +1,321 @@
...
+section
+
+variable {i j k l : ι} (f₁ : i ⟶ j) (f₂ : j ⟶ k) (f₃ : k ⟶ l)
+  (n₀ n₁ n₂ : ℤ)
+
+/-- The short complex consisting of the composition of
+two morphisms `X.δ`, given three composable morphisms `f₁`, `f₂`
+and `f₃` in `ι`, and three consecutive integers. -/
+@[simps]
+def shortComplexE (hn₁ : n₀ + 1 = n₁ := by lia) (hn₂ : n₁ + 1 = n₂ := by lia) :
```
Comment (robin-carlier) [inline Mathlib/Algebra/Homology/SpectralObject/Page.lean]:
```suggestion
def shortComplex (hn₁ : n₀ + 1 = n₁ := by lia) (hn₂ : n₁ + 1 = n₂ := by lia) :
```

Will there be many other short complexes in this namespace? I think it could be just called `shortComplex`

File: Mathlib/Algebra/Homology/SpectralObject/Page.lean [hunk 4]
```diff
@@ -0,0 +1,321 @@
...
+    IsZero (X.E f₁ f₂ f₃ n₀ n₁ n₂) :=
+  (X.shortComplexE f₁ f₂ f₃ n₀ n₁ n₂).exact_iff_isZero_homology.1
+    (ShortComplex.exact_of_isZero_X₂ _ h)
+
+end
+
+section
+
+variable
+  {i j k l : ι}
```
Comment (robin-carlier) [inline Mathlib/Algebra/Homology/SpectralObject/Page.lean]:
```suggestion
```
Seems like they get duplicated in the line below (untested)

File: Mathlib/Algebra/Homology/SpectralObject/Page.lean [hunk 5]
```diff
@@ -0,0 +1,321 @@
...
+@[simps!]
+noncomputable def cokernelSequenceCyclesEIso
+    (hn₁ : n₀ + 1 = n₁ := by lia) (hn₂ : n₁ + 1 = n₂ := by lia) :
+    X.cokernelSequenceCyclesE f₁ f₂ f₃ n₀ n₁ n₂ hn₁ hn₂ ≅ ShortComplex.mk _ _
+        (X.shortComplexE f₁ f₂ f₃ n₀ n₁ n₂ hn₁ hn₂).toCycles_comp_homologyπ :=
+  ShortComplex.isoMk (Iso.refl _) (X.cyclesIso f₁ f₂ f₃ n₀ n₁ n₂).symm
+    (Iso.refl _) (by simp) (by simp [πE])
+
+lemma cokernelSequenceCyclesE_exact (hn₁ : n₀ + 1 = n₁ := by lia) (hn₂ : n₁ + 1 = n₂ := by lia) :
+    (X.cokernelSequenceCyclesE f₁ f₂ f₃ n₀ n₁ n₂ hn₁ hn₂ ).Exact :=
```
Comment (robin-carlier) [inline Mathlib/Algebra/Homology/SpectralObject/Page.lean]:
```suggestion
    (X.cokernelSequenceCyclesE f₁ f₂ f₃ n₀ n₁ n₂ hn₁ hn₂).Exact :=
```

File: Mathlib/Algebra/Homology/SpectralObject/Page.lean [hunk 6]
```diff
@@ -0,0 +1,319 @@
...
+
+set_option backward.isDefEq.respectTransparency false in
+/-- The short complex `H^{n-1}(f₃) ⟶ Z^n(f₁, f₂) ⟶ E^n(f₁, f₂, f₃)` identifies
+to the cokernel sequence of the definition of the homology of the short
+complex `shortComplexE` as a cokernel of `ShortComplex.toCycles`. -/
+@[simps!]
+noncomputable def cokernelSequenceCyclesEIso
+    (hn₁ : n₀ + 1 = n₁ := by lia) (hn₂ : n₁ + 1 = n₂ := by lia) :
+    X.cokernelSequenceCyclesE f₁ f₂ f₃ n₀ n₁ n₂ hn₁ hn₂ ≅ ShortComplex.mk _ _
+        (X.shortComplex f₁ f₂ f₃ n₀ n₁ n₂ hn₁ hn₂).toCycles_comp_homologyπ :=
```
Comment (joelriou) [inline Mathlib/Algebra/Homology/SpectralObject/Page.lean]:
```suggestion
      (X.shortComplex f₁ f₂ f₃ n₀ n₁ n₂ hn₁ hn₂).toCycles_comp_homologyπ :=
```

File: Mathlib/Algebra/Homology/SpectralObject/Page.lean [hunk 7]
```diff
@@ -0,0 +1,319 @@
...
+  dsimp only [map]
+  simp [shortComplexMap_comp, ShortComplex.homologyMap_comp]
+
+set_option backward.isDefEq.respectTransparency false in
+lemma isIso_map
+    (h₀ : IsIso ((X.H n₀).map ((functorArrows ι 2 3 3).map α)))
+    (h₁ : IsIso ((X.H n₁).map ((functorArrows ι 1 2 3).map α)))
+    (h₂ : IsIso ((X.H n₂).map ((functorArrows ι 0 1 3).map α)))
+    (hn₁ : n₀ + 1 = n₁ := by lia) (hn₂ : n₁ + 1 = n₂ := by lia) :
+    IsIso (X.map f₁ f₂ f₃ f₁' f₂' f₃' α n₀ n₁ n₂ hn₁ hn₂ ) := by
```
Comment (robin-carlier) [inline Mathlib/Algebra/Homology/SpectralObject/Page.lean]:
```suggestion
    IsIso (X.map f₁ f₂ f₃ f₁' f₂' f₃' α n₀ n₁ n₂ hn₁ hn₂) := by
```

File: Mathlib/Algebra/Homology/SpectralObject/Page.lean [hunk 8]
```diff
@@ -0,0 +1,319 @@
...
+lemma δToCycles_πE (hn₁ : n₀ + 1 = n₁ := by lia) (hn₂ : n₁ + 1 = n₂ := by lia) :
+    X.δToCycles f₁ f₂ f₃ n₀ n₁ hn₁ ≫ X.πE f₁ f₂ f₃ n₀ n₁ n₂ hn₁ hn₂ = 0 := by
+  simp [πE]
+
+/-- The (exact) sequence `H^{n-1}(f₃) ⟶ Z^n(f₁, f₂) ⟶ E^n(f₁, f₂, f₃) ⟶ 0`. -/
+@[simps]
+noncomputable def cokernelSequenceCyclesE
+    (hn₁ : n₀ + 1 = n₁ := by lia) (hn₂ : n₁ + 1 = n₂ := by lia) :
+    ShortComplex C :=
+  ShortComplex.mk _ _ (X.δToCycles_πE f₁ f₂ f₃ n₀ n₁ n₂ hn₁ hn₂ )
```
Comment (robin-carlier) [inline Mathlib/Algebra/Homology/SpectralObject/Page.lean]:
```suggestion
  ShortComplex.mk _ _ (X.δToCycles_πE f₁ f₂ f₃ n₀ n₁ n₂ hn₁ hn₂)
```

File: Mathlib/Algebra/Homology/SpectralObject/Page.lean [hunk 9]
```diff
@@ -0,0 +1,319 @@
...
+        (cokernelIsCokernel (X.δToCycles f₁ f₂ f₃ n₀ n₁))
+      · exact parallelPair.ext (Iso.refl _) (Iso.refl _) (by simpa) (by simp)
+      · exact Cofork.ext (Iso.refl _) }
+
+set_option backward.isDefEq.respectTransparency false in
+@[simp]
+lemma leftHomologyDataShortComplexE_f' (hn₁ : n₀ + 1 = n₁ := by lia) (hn₂ : n₁ + 1 = n₂ := by lia) :
+    (X.leftHomologyDataShortComplexE f₁ f₂ f₃ n₀ n₁ n₂ hn₁ hn₂ ).f' =
+      X.δToCycles f₁ f₂ f₃ n₀ n₁ hn₁ := by
+  let hi := (X.kernelSequenceCycles_exact f₁ f₂ _ _ hn₂ ).fIsKernel
```
Comment (robin-carlier) [inline Mathlib/Algebra/Homology/SpectralObject/Page.lean]:
```suggestion
  let hi := (X.kernelSequenceCycles_exact f₁ f₂ _ _ hn₂).fIsKernel
```

File: Mathlib/Algebra/Homology/SpectralObject/Page.lean [hunk 10]
```diff
@@ -0,0 +1,319 @@
...
+    hπ := by
+      refine (IsColimit.equivOfNatIsoOfIso ?_ _ _ ?_).2
+        (cokernelIsCokernel (X.δToCycles f₁ f₂ f₃ n₀ n₁))
+      · exact parallelPair.ext (Iso.refl _) (Iso.refl _) (by simpa) (by simp)
+      · exact Cofork.ext (Iso.refl _) }
+
+set_option backward.isDefEq.respectTransparency false in
+@[simp]
+lemma leftHomologyDataShortComplexE_f' (hn₁ : n₀ + 1 = n₁ := by lia) (hn₂ : n₁ + 1 = n₂ := by lia) :
+    (X.leftHomologyDataShortComplexE f₁ f₂ f₃ n₀ n₁ n₂ hn₁ hn₂ ).f' =
```
Comment (robin-carlier) [inline Mathlib/Algebra/Homology/SpectralObject/Page.lean]:
```suggestion
    (X.leftHomologyDataShortComplexE f₁ f₂ f₃ n₀ n₁ n₂ hn₁ hn₂).f' =
```

File: Mathlib/Algebra/Homology/SpectralObject/Page.lean [hunk 11]
```diff
@@ -0,0 +1,319 @@
...
+  ShortComplex.isoMk (Iso.refl _) (X.cyclesIso f₁ f₂ f₃ n₀ n₁ n₂).symm
+    (Iso.refl _) (by simp) (by simp [πE])
+
+lemma cokernelSequenceCyclesE_exact (hn₁ : n₀ + 1 = n₁ := by lia) (hn₂ : n₁ + 1 = n₂ := by lia) :
+    (X.cokernelSequenceCyclesE f₁ f₂ f₃ n₀ n₁ n₂ hn₁ hn₂).Exact :=
+  ShortComplex.exact_of_iso (X.cokernelSequenceCyclesEIso f₁ f₂ f₃ n₀ n₁ n₂ hn₁ hn₂ ).symm
+    (ShortComplex.exact_of_g_is_cokernel _ (ShortComplex.homologyIsCokernel _))
+
+instance (hn₁ : n₀ + 1 = n₁) (hn₂ : n₁ + 1 = n₂) :
+    Epi (X.cokernelSequenceCyclesE f₁ f₂ f₃ n₀ n₁ n₂ hn₁ hn₂ ).g := by
```
Comment (robin-carlier) [inline Mathlib/Algebra/Homology/SpectralObject/Page.lean]:
```suggestion
    Epi (X.cokernelSequenceCyclesE f₁ f₂ f₃ n₀ n₁ n₂ hn₁ hn₂).g := by
```

File: Mathlib/Algebra/Homology/SpectralObject/Page.lean [hunk 12]
```diff
@@ -0,0 +1,319 @@
...
+      refine (IsLimit.equivOfNatIsoOfIso ?_ _ _ ?_).2
+        (kernelIsKernel (X.δFromOpcycles f₁ f₂ f₃ n₁ n₂))
+      · exact parallelPair.ext (Iso.refl _) (Iso.refl _) (by simpa) (by simp)
+      · exact Fork.ext (Iso.refl _) }
+
+set_option backward.isDefEq.respectTransparency false in
+@[simp]
+lemma rightHomologyDataShortComplexE_g'
+    (hn₁ : n₀ + 1 = n₁ := by lia) (hn₂ : n₁ + 1 = n₂ := by lia) :
+    (X.rightHomologyDataShortComplexE f₁ f₂ f₃ n₀ n₁ n₂ hn₁ hn₂ ).g' =
```
Comment (robin-carlier) [inline Mathlib/Algebra/Homology/SpectralObject/Page.lean]:
```suggestion
    (X.rightHomologyDataShortComplexE f₁ f₂ f₃ n₀ n₁ n₂ hn₁ hn₂).g' =
```

File: Mathlib/Algebra/Homology/SpectralObject/Page.lean [hunk 13]
```diff
@@ -0,0 +1,319 @@
...
+/-- The cycles of the short complex `shortComplexE` at `E^{n₁}(f₁, f₂, f₃)`
+identifies to `Z^{n₁}(f₁, f₂)`. -/
+noncomputable def cyclesIso (hn₁ : n₀ + 1 = n₁ := by lia) (hn₂ : n₁ + 1 = n₂ := by lia) :
+    (X.shortComplex f₁ f₂ f₃ n₀ n₁ n₂ hn₁ hn₂ ).cycles ≅ X.cycles f₁ f₂ n₁ :=
+  (X.leftHomologyDataShortComplexE f₁ f₂ f₃ n₀ n₁ n₂).cyclesIso
+
+@[reassoc (attr := simp)]
+lemma cyclesIso_inv_i (hn₁ : n₀ + 1 = n₁ := by lia) (hn₂ : n₁ + 1 = n₂ := by lia) :
+    (X.cyclesIso f₁ f₂ f₃ n₀ n₁ n₂ hn₁ hn₂ ).inv ≫
+      (X.shortComplex f₁ f₂ f₃ n₀ n₁ n₂ hn₁ hn₂ ).iCycles = X.iCycles f₁ f₂ n₁ :=
```
Comment (robin-carlier) [inline Mathlib/Algebra/Homology/SpectralObject/Page.lean]:
```suggestion
      (X.shortComplex f₁ f₂ f₃ n₀ n₁ n₂ hn₁ hn₂).iCycles = X.iCycles f₁ f₂ n₁ :=
```

File: Mathlib/Algebra/Homology/SpectralObject/Page.lean [hunk 14]
```diff
@@ -0,0 +1,319 @@
...
+lemma leftHomologyDataShortComplexE_f' (hn₁ : n₀ + 1 = n₁ := by lia) (hn₂ : n₁ + 1 = n₂ := by lia) :
+    (X.leftHomologyDataShortComplexE f₁ f₂ f₃ n₀ n₁ n₂ hn₁ hn₂ ).f' =
+      X.δToCycles f₁ f₂ f₃ n₀ n₁ hn₁ := by
+  let hi := (X.kernelSequenceCycles_exact f₁ f₂ _ _ hn₂ ).fIsKernel
+  exact Fork.IsLimit.hom_ext hi (by simpa using hi.fac _ .zero)
+
+/-- The cycles of the short complex `shortComplexE` at `E^{n₁}(f₁, f₂, f₃)`
+identifies to `Z^{n₁}(f₁, f₂)`. -/
+noncomputable def cyclesIso (hn₁ : n₀ + 1 = n₁ := by lia) (hn₂ : n₁ + 1 = n₂ := by lia) :
+    (X.shortComplex f₁ f₂ f₃ n₀ n₁ n₂ hn₁ hn₂ ).cycles ≅ X.cycles f₁ f₂ n₁ :=
```
Comment (robin-carlier) [inline Mathlib/Algebra/Homology/SpectralObject/Page.lean]:
```suggestion
    (X.shortComplex f₁ f₂ f₃ n₀ n₁ n₂ hn₁ hn₂).cycles ≅ X.cycles f₁ f₂ n₁ :=
```

**Review by robin-carlier — COMMENTED** [review]
Thanks!

maintainer delegate
